US04752326
(b) Preparation of 2-chloro-4-fluoro-5-nitrophenyl methanesulfonate
A 95% sulfuric acid (35 ml) was added to 2-chloro-4-fluorophenyl methanesulfonate (22.5 g), to which was then added dropwise a mixture of 95% sulfuric acid (7.5 ml) and 61% nitric acid (10.3 g) under ice-water cooling and stirring to effect nitration reaction. After the completion of the addition, the reaction mixture was stirred for further 30 minutes at room temperature and then poured onto ice pieces and extracted with toluene. The toluene extract as separated was washed with 1N aqueous sodium hydroxide solution and then with water and dried over anhydrous sodium sulfate. The toluene was distilled off to afford the titled compound (25.9 g) as pale yellow crystals with melting point 64°-65.5° C.

reactant | sulfuric acid | 35 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-chloro-4-fluorophenyl methanesulfonate | 22.5 g | CS(=O)(=O)OC1=C(C=C(C=C1)F)Cl | C7H6ClFO3S
reactant | sulfuric acid | 7.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 10.3 g | [N+](=O)(O)[O-] | HNO3
product | 2-chloro-4-fluoro-5-nitrophenyl methanesulfonate | 25.9 g | CS(=O)(=O)OC1=C(C=C(C(=C1)[N+](=O)[O-])F)Cl | C7H5ClFNO5S
